US04241097
To a slurry of 54 grams of 55% sodium hydride in 1000 mls of toluene is portionwise added 140 grams of trans-1,2-cyclohexanediol at 90° C. with concommitant release of hydrogen. The resulting mass, containing the monosodium salt of trans-1,2-cyclohexanediol is stirred at 100° C. for 30 minutes. Ethyl bromoacetate (203 grams) is added dropwise to the stirred reaction mass at 100° C. over a 30 minute period. After stirring for 30 minutes, the mass is cooled to 20° C. Water (100 ml) is added and the organic layer is distilled to afford 130 grams of trans-hexahydro-1,4-benzodioxan-2-one. The product is purified by distillation through a 1"×12" Goodloe® packed column to afford a semi solid (m.p. 20°-22° C., bp. 97° C. at 1.2 mm).

reactant | sodium hydride | 54 grams | [H-].[Na+]
reactant | trans-1,2-cyclohexanediol | 140 grams | [C@@H]1([C@@H](CCCC1)O)O | C6H12O2
reactant | hydrogen | [H][H] | H2
reactant | monosodium | [Na] | Na
reactant | Ethyl bromoacetate | 203 grams | BrCC(=O)OCC | C4H7BrO2
solvent | toluene | 1000 mls | C1(=CC=CC=C1)C | C7H8
solvent | Water | 100 ml | O | H2O
product | trans-hexahydro-1,4-benzodioxan-2-one | 130 grams | O1C(CO[C@H]2[C@H]1CCCC2)=O | C8H12O3
